data/polar.json
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[O:5]=[S:21](=[O:6])([N:20]([S:17][C:10]([F:14])([F:15])[F:16])[S:22](=[O:7])(=[O:8])[c:41]1[cH:25][cH:35][cH:30][cH:36][cH:26]1)[c:40]1[cH:23][cH:33][cH:29][cH:34][cH:24]1.[cH:1]1[c:9]([CH3:37])[s:48][c:4]([B-:11]2([c:49]3[cH:38][c:12]([C:2]([F:42])([F:43])[F:44])[cH:19][c:13]([C:3]([F:45])([F:46])[F:47])[cH:39]3)[O:31][CH2:27][CH2:28][O:32]2)[cH:18]1>>[C:2]([c:12]1[cH:19][c:13]([C:3]([F:45])([F:46])[F:47])[cH:39][c:49]([B-:11]2=[O+:31][CH2:27][CH2:28][O:32]2)[cH:38]1)([F:42])([F:43])[F:44].[O:5]=[S:21](=[O:6])([N-:20][S:22](=[O:7])(=[O:8])[c:41]1[cH:25][cH:35][cH:30][cH:36][cH:26]1)[c:40]1[cH:23][cH:33][cH:29][cH:34][cH:24]1.[cH:1]1[c:9]([CH3:37])[s:48][c:4]([S:17][C:10]([F:14])([F:15])[F:16])[cH:18]1", "epd": [["LP-/Pi+", [31], [11, 31]], ["Sigma-/Sigma+", [4, 11], [4, 17]], ["Sigma-/LP+", [17, 20], [20]]]}
{"reaction_name": "Conjugated iminium substitution", "rsmi": "[CH2:2]=[CH:4][N+:5]([CH3:6])([CH3:7])[CH3:8].[O-:1][CH3:3]>>[N:5]([CH3:6])([CH3:7])[CH3:8].[O:1]([CH3:3])[CH:4]=[CH2:2]", "epd": [["LP-/Sigma+", [1], [1, 4]], ["Sigma-/LP+", [4, 5], [5]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[CH:1]1=[CH:9][c:10]2[cH:19][cH:18][cH:34][cH:14][c:24]2[CH:35]1[Na:27].[O:2]=[S:32](=[O:3])([c:17]1[cH:5][cH:12][c:23]([CH3:33])[cH:13][cH:6]1)[n:25]1[cH:16][c:21]([N+:20](=[O:7])[O-:8])[c:22]2[cH:11][cH:28][c:15]([N+:31](=[O:29])[O-:30])[cH:4][c:26]21>>[CH:1]1=[CH:9][c:10]2[cH:19][cH:18][cH:34][cH:14][c:24]2[CH:35]1[CH:16]1[C:21](=[N+:20]([O-:7])[O-:8])[c:22]2[cH:11][cH:28][c:15]([N+:31](=[O:29])[O-:30])[cH:4][c:26]2[N:25]1[S:32](=[O:2])(=[O:3])[c:17]1[cH:5][cH:12][c:23]([CH3:33])[cH:13][cH:6]1.[Na+:27]", "epd": [["Sigma-/Sigma+", [35, 27], [35, 16]], ["Pi-/Pi+", [16, 21], [21, 20]], ["Pi-/LP+", [20, 7], [7]]]}
{"reaction_name": "π-Nucleophile capture of a preformed localized carbocation", "rsmi": "[C:1]1([O:22][Si:3]([CH3:23])([CH3:24])[CH3:25])=[C:17]([CH3:9])[CH2:8][CH2:2][O:10]1.[cH:4]1[c:11]([CH+:28][c:12]2[cH:5][c:15]([F:20])[cH:27][c:16]([F:21])[cH:6]2)[cH:7][c:13]([F:18])[cH:26][c:14]1[F:19]>>[C:1]1(=[O+:22][Si:3]([CH3:23])([CH3:24])[CH3:25])[O:10][CH2:2][CH2:8][C:17]1([CH3:9])[CH:28]([c:11]1[cH:4][c:14]([F:19])[cH:26][c:13]([F:18])[cH:7]1)[c:12]1[cH:5][c:15]([F:20])[cH:27][c:16]([F:21])[cH:6]1", "epd": [["LP-/Pi+", [22], [1, 22]], ["Pi-/Sigma+", [17, 1], [17, 28]]]}
{"reaction_name": "Aza-Michael addition", "rsmi": "[C:1]1(=[O:3])[N-:2][CH2:16][CH2:17][O:6]1.[S:4]([c:8]1[cH:19][cH:12][cH:10][cH:15][cH:22]1)([C:18]([S:5]([c:9]1[cH:20][cH:13][cH:11][cH:14][cH:21]1)(=[O:23])=[O:24])=[CH2:7])(=[O:25])=[O:26]>>[C:1]1(=[O:3])[N:2]([CH2:7][C-:18]([S:4]([c:8]2[cH:19][cH:12][cH:10][cH:15][cH:22]2)(=[O:25])=[O:26])[S:5]([c:9]2[cH:20][cH:13][cH:11][cH:14][cH:21]2)(=[O:23])=[O:24])[CH2:16][CH2:17][O:6]1", "epd": [["LP-/Sigma+", [2], [2, 7]], ["Pi-/LP+", [7, 18], [18]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH3:1][C:4]([CH3:2])=[N+:6]([O-:11])[O-:12].[CH:3](=[O+:14][CH3:13])[c:15]1[cH:9][cH:7][cH:5][cH:8][cH:10]1>>[CH3:1][C:4]([CH3:2])([CH:3]([O:14][CH3:13])[c:15]1[cH:9][cH:7][cH:5][cH:8][cH:10]1)[N+:6](=[O:11])[O-:12]", "epd": [["LP-/Pi+", [11], [6, 11]], ["Pi-/Sigma+", [4, 6], [4, 3]], ["Pi-/LP+", [3, 14], [14]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH3:1][C:4](=[C:2]=[N-:6])[c:7]1[cH:8][cH:14][cH:16][cH:15][cH:9]1.[CH:3](=[O+:18][CH3:17])[c:19]1[cH:12][cH:10][cH:5][cH:11][cH:13]1>>[CH3:1][C:4]([C:2]#[N:6])([CH:3]([O:18][CH3:17])[c:19]1[cH:12][cH:10][cH:5][cH:11][cH:13]1)[c:7]1[cH:8][cH:14][cH:16][cH:15][cH:9]1", "epd": [["LP-/Pi+", [6], [2, 6]], ["Pi-/Sigma+", [4, 2], [4, 3]], ["Pi-/LP+", [3, 18], [18]]]}
{"reaction_name": "Addition to isothiocyanates", "rsmi": "[c:1]1([N:24]=[C:5]=[S:13])[cH:27][cH:14][c:6]([N+:25](=[O:3])[O-:7])[cH:15][cH:28]1.[c:2]1([S:18](=[O:21])(=[O:22])[CH-:26][c:10]2[cH:8][cH:19][cH:23][cH:20][cH:9]2)[cH:11][cH:16][cH:4][cH:17][cH:12]1>>[c:1]1([N:24]=[C:5]([S-:13])[CH:26]([c:10]2[cH:8][cH:19][cH:23][cH:20][cH:9]2)[S:18]([c:2]2[cH:11][cH:16][cH:4][cH:17][cH:12]2)(=[O:21])=[O:22])[cH:27][cH:14][c:6]([N+:25](=[O:3])[O-:7])[cH:15][cH:28]1", "epd": [["LP-/Sigma+", [26], [26, 5]], ["Pi-/LP+", [5, 13], [13]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O-:1][C:21](=[CH:3][c:8]1[cH:14][cH:4][cH:26][cH:5][cH:15]1)[O:25][CH2:27][CH3:12].[n:2]1[n:6][c:23]2[n:10]([cH:13][c:22]([N+:9](=[O:7])[O-:19])[cH:18][c:16]2[N+:17](=[O:11])[O-:24])[n:20]1>>[O:1]=[C:21]([CH:3]([c:8]1[cH:14][cH:4][cH:26][cH:5][cH:15]1)[CH:13]1[n:10]2[n:20][n:2][n:6][c:23]2[C:16]([N+:17](=[O:11])[O-:24])=[CH:18][C:22]1=[N+:9]([O-:7])[O-:19])[O:25][CH2:27][CH3:12]", "epd": [["LP-/Pi+", [1], [21, 1]], ["Pi-/Sigma+", [3, 21], [3, 13]], ["Pi-/Pi+", [13, 22], [22, 9]], ["Pi-/LP+", [9, 7], [7]]]}
